US04845276
A solution of 1,3-dimethoxybenzene (12.06 g.) and tetramethylethylenediamine (15 ml.) in triethylamine (20 ml.) was added to the potassium diethylamide reaction mixture and stirred for two hours. The entire mixture, a gray suspension, was poured into a 1-liter beaker containing crushed dry ice (456 g.) with the aid of 35 ml of added triethylamine and was allowed to warm to room temperature. The contents of the beaker were transferred into a 1-liter flask with the aid of some water. All volatile components were removed by a rotary evaporator. The solid remaining in the flask was partitioned between diethyl ether (30 ml.) and water, which was extracted with diethyl ether (four times, 30 ml.). The aqueous layer was acidified with concentrated hydrochloric acid to a pH of 1. The resultant precipitate was collected by filtration, water-washed and air dried to give 10.99 g. (69% yield) of 2,6-dimethoxybenzoic acid.

reactant | 1,3-dimethoxybenzene | 12.06 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | tetramethylethylenediamine | 15 ml | CN(CCN(C)C)C | C6H16N2
reactant | potassium diethylamide | C(C)[N-]CC.[K+]
reactant | dry ice | 456 g | C(=O)=O | CO2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2,6-dimethoxybenzoic acid | 69% yield | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
